US08349885B2
20.60 g (78.61 mmol) of 4-Iodobenzoic acid methyl ester and 9.26 g (94.33 mmol) of ethynyl trimethylsilane were dissolved in 200 ml of tetrahydrofuran, and thereto 23.86 g (235.83 mmol) of triethylamine, 1.65 g (2.36 mmol) of dichloro(bistriphenylphosphine)palladium(II) and 0.45 g (2.36 mmol) of copper(I) iodide were added. The mixture was stirred at room temperature for 8 hours. At the end of reaction, added water and extracted with ethylacetate. The extract was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and separated by column chromatography to obtain trimethylsilylethynylbenzoic acid methyl ester 18.30 g (Yield 100%).

reactant | 4-Iodobenzoic acid methyl ester | 78.61 mmol, 20.60 g | COC(C1=CC=C(C=C1)I)=O | C8H7IO2
reactant | ethynyl trimethylsilane | 94.33 mmol, 9.26 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 235.83 mmol, 23.86 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 2.36 mmol, 0.45 g | [Cu]I
product | trimethylsilylethynylbenzoic acid methyl ester | 18.30 g, Yield 100% | COC(C1=C(C=CC=C1)C#C[Si](C)(C)C)=O | C13H16O2Si
